US06747025B1
Preparation of 5-Dimethylaminophthalide
Sodium cyanoborohydride (8.42 g, 134 mmol) was added into a stirred suspension of 5-aminophthalide (5.0 g, 33.5 mmol) and 37% CH2O/H2O solution (24.9 mL, 335 mmol) in 120 mL of acetonitrile. The mixture was stirred at room temperature for 1 hour, cooled to 0 C and 120 mL of 10% aqueous acetic acid solution was added. The mixture was then stirred at room temperature for 1 hour, evaporated under low pressure until no acetonitrile remained. The resulting mixture was extracted with ethyl acetate (2×125 mL). The combined organic extracts were washed with saturated NaHCO3 solution (125 mL) and brine (125 mL), dried over Na2SO4 and evaporated to dryness to give a light brown solid, which was triturated with hot MeOH (10 mL) to give the title compound (3.9 g, 66%) as an off-white solid.

reactant | Sodium cyanoborohydride | 134 mmol, 8.42 g | C(#N)[BH3-].[Na+]
reactant | 5-aminophthalide | 33.5 mmol, 5.0 g | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | CH2O H2O | 335 mmol, 24.9 mL | C=O.O
reactant | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 5-Dimethylaminophthalide | 3.9 g, 66% | CN(C=1C=C2COC(=O)C2=CC1)C | C10H11NO2
